US07528140B2
Synthesis of ethyl 3-[4-amino-3-cyano-5-(methoxycarbonyl)-2-phenylpyrrolyl]propionate
After dissolving (methoxyphenylmethylene)methane-1,1-dicarbonitrile (15.10 g) and β-alanine ethyl ester hydrochloride (15.11 g) in acetonitrile (300 mL), triethylamine (23.00 mL) was added and the mixture was stirred for 10 minutes at room temperature. After confirming complete consumption of the (methoxyphenyl-methylene)methane-1,1-dicarbonitrile by thin-layer chromatography (hexane/ethyl acetate=3/1), the solvent was distilled off under reduced pressure. Ethyl acetate and water were added to the residue, and extraction was performed 3 times with ethyl acetate. The organic layer was washed with water and saturated brine and then dried over anhydrous magnesium sulfate. After filtering off the magnesium sulfate, the solvent was distilled off under reduced pressure. Acetonitrile (700 mL) and anhydrous cesium carbonate (53.65 g) were added to the residue. Methyl bromoacetate (16.00 mL) was added thereto and the mixture was heated to reflux for 40 minutes. After cooling the mixture to room temperature, it was allowed to stand, the supernatant was separated by decantation, and the solvent was distilled off under reduced pressure. The residue was combined with the solid portion remaining after decantation, ethyl acetate and water were added, and extraction was performed 3 times with ethyl acetate. The organic layer was washed with water and saturated brine and then dried over anhydrous magnesium sulfate. After filtering off the magnesium sulfate, the solvent was distilled off under reduced pressure. The residue was passed through a chromatography column packed with a small amount of silica gel (elution with dichloromethane), for removal of the highly polar impurities, to obtain the title compound as a crude product (35.31 g).

reactant | (methoxyphenylmethylene)methane-1,1-dicarbonitrile | 15.10 g | COC(C1=CC=CC=C1)=C(C#N)C#N | C11H8N2O
reactant | β-alanine ethyl ester hydrochloride | 15.11 g | Cl.C(C)OC(CCN)=O
solvent | acetonitrile | 300 mL | C(C)#N | C2H3N
solvent | triethylamine | 23.00 mL | C(C)N(CC)CC | C6H15N
product | ethyl 3-[4-amino-3-cyano-5-(methoxycarbonyl)-2-phenylpyrrolyl]propionate | NC=1C(=C(N(C1C(=O)OC)CCC(=O)OCC)C1=CC=CC=C1)C#N | C18H19N3O4
